US04067903
316 parts of 2-methyl-α-naphthol, 10 parts of triphenyl phosphite and 115 parts of ethylamine gas are heated for 20 hours at 230° C in a pressure autoclave. The further working up is carried out as described in Example 3. 315 parts of 2-methyl-N-ethyl-α-naphthylamine, boiling at 120° - 125° C/0.3 mm Hg (nD25 = 1.6145) are obtained, corresponding to a yield of 85% of theory.

reactant | 2-methyl-α-naphthol | CC1=C(C2=CC=CC=C2C=C1)O | C11H10O
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | ethylamine | C(C)N | C2H7N
product | 2-methyl-N-ethyl-α-naphthylamine | yield of 85% | CC1=C(C2=CC=CC=C2C=C1)NCC | C13H15N
